US04009181
A stirred mixture of 100 mg. of 9-benzoyl-6-chloro-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid and 5 ml. of 3N sodium hydroxide was heated on a steam bath for 5 minutes and cooled to room temperature. After 1 hour at room temperature, the reaction mixture was further cooled in an ice bath, filtered and the filter cake was washed with 10 drops of cold water. The filter cake was dissolved in 20 ml. of warm water, and the resulting warm solution was made strongly acid with 1N hydrochloric acid. Following filtration, washing with warm water and drying, 56 mg. of (±) 6-chloro-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid was obtained, m.p. 247°-249°.

reactant | 9-benzoyl-6-chloro-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid | C(C1=CC=CC=C1)(=O)N1C2=CC=C(C=C2C=2CCC(CC12)C(=O)O)Cl | C20H16ClNO3
reactant | sodium hydroxide | 3N | [OH-].[Na+]
product | (±) 6-chloro-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid | ClC=1C=C2C=3CCC(CC3NC2=CC1)C(=O)O | C13H12ClNO2
